US03953532
To 220 mg. of 2-hydroxy-5-cycloocten-1-one in 5 ml. of 30% ethanol/benzene is added 860 mg. of 85% lead tetraacetate in portions. After about 3 hours at room temperature, water and ether are added to the reaction mixture. The aqueous phase is extracted several times with ether. The combined ether extracts are washed with 2M sodium carbonate and saturated sodium chloride solution, dried over calcium sulfate and evaporated to give ethyl (4Z)-8-oxo-4-octenoate in high purity.

reactant | 2-hydroxy-5-cycloocten-1-one | OC1C(CCC=CCC1)=O | C8H12O2
reactant | ethanol benzene | C(C)O.C1=CC=CC=C1
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | ethyl (4Z)-8-oxo-4-octenoate | O=CCC\C=C/CCC(=O)OCC | C10H16O3
